US07713979B2
5-[3,5-Dichloro-4-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-phenyl]-thiophene-2-carboxylic acid methyl ester
To a solution of 5-bromo-thiophene-2-carboxylic acid methyl ester (Preparation 86) (552.5 mg, 2.5 mmol) in 5 mL of THF, add n-butyl lithium (1.6 M, 1,56 mL, 2.5 mmol) at −78° C. and stir at that temperature for 30 min. Add anhydrous zinc chloride (455 mg, 4.0 mmol) and keep in −78° C. for 30 min, and then warm up to room temp. After stirring at room temp for 30 min, add 3,5-dichloro-4-((1-cyclohexyl-2-oxopyrrolidin-3-yl)methyl)phenyl trifluoromethanesulfonate (593 mg, 1.25 mmol). Add 1,1′-bis(diphenylphosphino) ferrocene)dichloroplladium and complex with dichloromethane (102 mg, 0.125 mmol) with 1.0 mL of THF. After heating to reflux for 5 hours. cool the reaction to room temp. Dilute with ethyl acetate, wash with water, separate the organic layer, and dry over anhydrous sodium sulfate. Purify the crude material by flash chromatography on silica gel using hexane:ethyl acetate (10:1.5) as eluent to give 94 mg of the title compound LC/MS (API) m/z: 466.0 (M+1).

reactant | 5-bromo-thiophene-2-carboxylic acid methyl ester | 2.5 mmol, 552.5 mg | COC(=O)C=1SC(=CC1)Br | C6H5BrO2S
reactant | n-butyl lithium | 2.5 mmol, 1.6 M, 1,56 mL | C(CCC)[Li]
reactant | 3,5-dichloro-4-((1-cyclohexyl-2-oxopyrrolidin-3-yl)methyl)phenyl trifluoromethanesulfonate | 1.25 mmol, 593 mg | FC(S(=O)(=O)OC1=CC(=C(C(=C1)Cl)CC1C(N(CC1)C1CCCCC1)=O)Cl)(F)F | C18H20Cl2F3NO4S
reactant | dichloromethane | 0.125 mmol, 102 mg | ClCCl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 4.0 mmol, 455 mg | [Cl-].[Zn+2].[Cl-]
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 5-[3,5-Dichloro-4-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-phenyl]-thiophene-2-carboxylic acid methyl ester | 94 mg | COC(=O)C=1SC(=CC1)C1=CC(=C(C(=C1)Cl)CC1C(N(CC1)C1CCCCC1)=O)Cl | C23H25Cl2NO3S
